US06632810B2
Synthesis of ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propionate:
Ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propenoate (1.70 g) was dissolved in methanol (20 mL), 10% palladium on carbon (510 mg) was added to the solution, and the mixture was stirred at room temperature for 2.5 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was then concentrated to obtain the title compound.

reactant | Ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propenoate | 1.70 g | COC1=C2C=CC(=CC2=CC(=C1OC)OC)C=CC(=O)OCC | C18H20O5
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 510 mg | [Pd] | Pd
product | ethyl 3-(5,6,7-trimethoxynaphthalen-2-yl)propionate | COC1=C2C=CC(=CC2=CC(=C1OC)OC)CCC(=O)OCC | C18H22O5
